US05516790
Synthesis of 6-methyl 1,3,8-trichlorodibenzofuran.
20 gms. of 2-methyl-4-chlorophenol (Aldrich Chemicals) and 5 gms. of 2,4,6-trichloroaniline (Aldrich Chemicals) were mixed and heated with stirring to 120° C. 6 mls. of isoamyl nitrate was added dropwise over a thirty minute period and the mixture was stirred for 18 hours at 120° C. The excess phenol was removed by evaporation and the residue was adsorbed on silica gel and added to the top of a silica gel column packed with petroleum spirit/diethylether (3:7). The column was eluted with 500 ml. of the above solvent, the solvent was evaporated, and the residue was dissolved in dimethyl sulfoxide. 500 mg. of anhydrous potassium carbonate was added and the mixture was stirred for two hours at 190° C. It was then adsorbed on 30-40 grams of silica gel. The solvent was evaporated and the silica gel was added to the top of a 20×5 cm silica gel column which was packed and equilibrated with petroleum spirit. 6-methyl 1,3,8-trichlorodibenzofuran was eluted from the column with 500 mls. of petroleum spirit and the residue was crystallized from anisole/methanol (1:9). 280 mgs. of the product was recovered and was 99% pure as determined by gas chromatographic analysis and a molecular weight of 284 was confirmed with a VG 12000 quadrupole mass chromatograph coupled to a Hewlett Packard 500 gas chromatograph. The 220-MHz. proton magnetic resonance spectrum (in deuterochloroform) was determined with a Varian XL200 spectrometer and gave (in CDCL3): 8.07 (H-9,d,J=1.6 Hz) 7.48, 7.33 (H-1/H-3, d,J=1.6 Hz); 7.29, 7.29ppm (H-7,m).

reactant | 2-methyl-4-chlorophenol | CC1=C(C=CC(=C1)Cl)O | C7H7ClO
reactant | 2,4,6-trichloroaniline | ClC1=C(N)C(=CC(=C1)Cl)Cl | C6H4Cl3N
reactant | isoamyl nitrate | [N+](=O)(OCCC(C)C)[O-] | C5H11NO3
product | 6-methyl 1,3,8-trichlorodibenzofuran | CC1=CC(=CC=2C3=C(OC21)C=C(C=C3Cl)Cl)Cl | C13H7Cl3O
